US08420812B2
6-Quinolin-3-yl-hex-5-yn-1-ol
This product was prepared from toluene-4-sulfonic acid quinolin-3-yl ester and hex-5-yn-1-ol following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 6:4; yield (110 mg, 98%); 1H NMR δ (CDCl3): 8.89 (s, 1H), 8.21 (s, 1H), 8.11 (d, J=8.62 Hz, 1H), 7.80-7.68 (dm, 2H), 7.62-7.52 (m, 1H), 3.74 (t, J=7.17 Hz, 2H), 2.52 (t, J=7.13 Hz, 2H), 1.83-1.67 (br m, 5H); LCMS m/z: 225.

reactant | toluene-4-sulfonic acid quinolin-3-yl ester | N1=CC(=CC2=CC=CC=C12)OS(=O)(=O)C1=CC=C(C=C1)C | C16H13NO3S
reactant | hex-5-yn-1-ol | C(CCCC#C)O | C6H10O
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 6-Quinolin-3-yl-hex-5-yn-1-ol | N1=CC(=CC2=CC=CC=C12)C#CCCCCO | C15H15NO
